US05331006
1-(4-Methylphenyl)sulfonyl-1H-indazole-3-carboxylic acid methyl ester
To a suspension of sodium hydride (4.6 g, 150 mmol, 80% in paraffin oil) indry THF (100 mL), a solution of 3-indazolecarboxylic acid methyl ester [(J.Am. Chem. soc, 74, 2009 (1952)] (22.0 g, 125 mmol) in dry THF (100 mL) was added dropwise with stirring while the inner temperature was maintained under 30° C. The reaction mixture was stirred for 30 minutes and then a solution of p-toluenesulphonyl chloride (28.0 g, 150 mmol) in dry THE (100 mL) was added dropwise to the stirring reactant. After 4 hours, the solvent was evaporated in vacuo and the residue partitioned between water and CH2Cl2. The organic phase was separated, dried over Na2SO4 and the solvent evaporated to leave a solid which was recrystallized from ethyl acetate (31.0 g, 75%), m.p. 163°-165° C.

reactant | sodium hydride | 150 mmol, 4.6 g | [H-].[Na+]
reactant | 3-indazolecarboxylic acid methyl ester | COC(=O)C1=NNC2=CC=CC=C12 | C9H8N2O2
reactant | p-toluenesulphonyl chloride | 150 mmol, 28.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(4-Methylphenyl)sulfonyl-1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)C | C16H14N2O4S
